* Z:\media\raid0\data_raid_back\mainster\DATAPOOL\TRANSFER\CODES\LTSpice_projects\DRSSTC_driver_supply.asc
D1 N004 N001 BZX84C15L
L1 N002 0 2H Rser=1k
L2 N003 0 25m Rser=53
V1 N002 0 SINE(0 330 50 0)
D3 N003 N001 MURS320
D4 0 N001 MURS320
D5 N004 N003 MURS320
D6 N004 0 MURS320
C1 N001 N004 2200µ
R1 N004 0 10000k
I1 N001 N004 PULSE(0 20 10 20n 30n 10u 100u 20)
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
K L1 L2 0.99
.tran 0 0.8 0 10u
.backanno
.end
