* Z:\home\mainster\CODES_local\LTSpice_projects\Draft1.asc
V1 e 0 PULSE(0 1 0 10p 10p {p*T} {T})
L1 e a1 100µ
R1 a1 0 1
R2 e a2 1000
C1 a2 0 1µ
.param Tsim=8m
.param T = 200000u
.param p= 0.3
.tran 0 {Tsim} {Tsim-5*T}
.backanno
.end
