* Z:\media\data\CODES\LTSpice_projects\Draft4.asc
L1 N001 0 .8073
R1 N002 0 200
C1 N001 N002 10µ
V1 N001 0 SINE(0 10 60 0 0 90)
.tran 100m uic
.backanno
.end
