* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\Maxxon_endstufe.asc
M1 out G12 0 0 NMOSx
M2 out G12 N001 N001 PMOS
R1 N001 G12 6.8kR
R2 G12 N003 100
Q1 N003 N007 0 0 NPN
R3 N007 N006 4.7k
R4 0 N007 68k
V1 N001 0 14
V2 N005 0 1
R5 N002 out 5
L1 out2 N002 10m
M3 out2 G34 0 0 NMOSx
M4 out2 G34 N001 N001 PMOS
R6 N001 G34 6.8kR
R7 G34 N004 100
Q2 N004 N008 0 0 NPN
R8 N008 N009 4.7k
R9 0 N008 68k
V3 N009 N010 0
V4 N006 0 PULSE(0 5 0 10u 10u 1m 2m)
E1 N010 0 N011 0 1
V5 N011 0 PULSE(5 0 200u 10u 10u {2m-0.8m} 2m)
.model NPN NPN
.model PNP PNP
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 4m 0 250n
.model nmosx NMOS(Kp=13.8 VT0=1)
.backanno
.end
