* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\TL431_ersatz.asc
V1 Vm 0 -10
V2 Vp 0 10
XU2 Cat N002 0 Cat N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 N002 0 2.24
Q1 Cat N001 0 0 NPN
D1 0 Cat D
R1 Vp Cat 4.7k
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.tran 10m
.lib UniversalOpamps2.sub
.backanno
.end
