* Z:\home\mainster\CODES_local\LTSpice_projects\linearisierung_bjt.asc
XU2 N001 vdc_single V=5V
R1 N001 c 1k
Q1 c b 0 0 NPNx
I1 0 b {Ib}
B1 0 N002 I={ Is/Bf*exp(Vbe0/VT)*(1+( V(b) -Vbe0)/VT) }
R2 N002 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.model NPNx npn ( Is={Is} Bf={Bf} )
.param Ib=10u
+ Ic0 = 3mA
+ Vbe0 = 0.6
+ VT = 26mV
+ Is = Ic0/exp(Vbe0/VT)
+ Bf = 200
.step param Ib 0 100u .5u
.op
.lib EIT_sub/vdc_single.sub
.backanno
.end
