* Z:\home\mainster\CODES_local\LTSpice_projects\noise.asc
R1 N001 out 1k
R2 out 0 10k
V1 N001 0 ac 1
.noise V(out) V1 oct 100 1 1meg
.backanno
.end
