* Z:\home\mainster\CODES_local\LTSpice_projects\stochastische_sys.asc
R1 N001 a {R1}
R2 a 0 {R2}
C1 a 0 {C}
XU1 N001 vdc_single V={U0}
C2 b 0 {C}
R3 N002 b {R1*R2/(R1+R2)}
XU2 N002 vdc_single V={U0*R2/(R1+R2)}
.param initial=1
+ R1 = 1k
+ R2 = {R1}
+ C = 1u
+ u0 = 5V
+ uc0 = -2V
.tran 5m
.ic V(a)={uc0}
.ic V(b)={uc0}
.lib EIT_sub/vdc_single.sub
.backanno
.end
