* Z:\home\mainster\CODES_local\LTSpice_projects\BuckBoostInv_swconverter\buck.asc
S2 sw_buck N001 N002 0 SW
V3 N001 0 12 Rser=1m
L2 out_buck sw_buck 100u
D2 0 sw_buck D
C2 ca 0 20u
V4 N002 0 PULSE(0 1 0 {trf} {trf} {1/(2*fsw)} {1/(fsw)})
IL out_buck 0 PULSE(0.5 1 1m 1u)
Rs out_buck ca {Rs}
Rpar sw_buck 0 10k
Cpar sw_buck 0 10p
R1 out_buck 0 {RL}
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model SW VSWITCH Roff=1e6 Ron=1u Voff=0.1 Von =0.9
.param fsw=50k
.param RL=10meg
.param trf=10n
.param Rs=200m
.tran 3m
* .step param Rs list 100m 1m 500u
* .tran 0 5m {5m-3*1/fsw} 10n
* .step param Rl list 10 1
.backanno
.end
