* Z:\media\storage\CODES_ln\LTSpice_projects\DAC_differential_current_out\DAC_differential_current_out.asc
IP 0 N006 SINE({IoutFS/2} {IoutFS/2} {fo})
IN 0 N007 SINE({IoutFS/2} {IoutFS/2} {fo} 0 0 -180)
R3 DACA_N 0 100
R2 0 DACA_P 100
L1 N001 0 {Lp}
L2 0 N008 {Lp}
L3 o2 N002 {Ls}
R1 N003 o2 50meg
R4 o2 N008 100meg
RLo N003 N002 50
R8 DACA_P N004 300k
R9 DACA_N N005 300k
C1 DACA_N 0 5p
C2 0 DACA_P 5p
R5 N001 DACA_P 100
I1 N005 N004 ac 28.2m
R6 N007 N006 100k
R7 N008 DACA_N 100
* DAC3484
.param IoutFS=20mA
.param code=10000
.param Lp=100nH
.param Ls=50nH
.param k=2*Lp/Ls
.param RLi=1
.param fo=100meg
.ac oct 100 100 1000meg
* {-IoutFS*(2**16-CODE)/2**16}
* {IoutFS*CODE/2**16}
K1 L1 L2 L3 0.98
.backanno
.end
