* Z:\home\koblitz\Simulationsbeispiele_WS15\EAS\mult-2q-einfach.asc
VA N003 0 0
V1 N001 0 5
Q1 c1 b1 e12 0 NPN
Q2 c2 0 e12 0 NPN
I1 e12 0 100µ
Q3 N002 N002 b1 0 NPN
Q4 N002 N002 0 0 NPN
RA N003 b1 2k
I2 0 N002 2m
I3 b1 0 1m
RC1 N001 c1 {rc}
RC2 N001 c2 {rc}
XU1 c2 c1 out opamp_param_4 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=2m A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
RB1 out c1 {rb}
RB2 0 c2 {rb}
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
.dc VA -2.5 2.5 10m
.step i1 100u 1000u 100u
.param rc=5k rb=5k
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
