* Z:\home\koblitz\Simulationsbeispiele_WS15\elektronik_vor\gleichrichter_1-kleinsignal.asc
V1 in 0 SINE(0 3 50)
RL 1 0 1k
D1 in 1 1N4148
C1 1 0 100µ
R1 1 d 1k
D2 d 0 1n4148
.model D D
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.dio
.tran 100m
.backanno
.end
