* Z:\home\koblitz\Simulationsbeispiele_WS14\Elektronik_Vor\kollektorschaltung_skript.asc
Q1 plus bas em 0 npn_e
RE em 0 5.6k
RB plus bas 470k
XU1 plus vdc_single V=10V
C1 N002 bas 0.1µ
R1 N001 N002 100k
V1 N001 0 SINE(0 1 1k) AC 1
C2 em out 10µ
RL out 0 10k
RB1 bas 0 680k
.model NPN NPN
.model PNP PNP
.lib Z:\home\koblitz\LT-Spice\lib\cmp\standard.bjt
;op
.ac oct 10 1 10meg
.model npn_e npn (bf=200 VAF=80 IS=1.e-14)
;tran 2m
.lib EIT_sub\vdc_single.sub
.backanno
.end
