* Z:\home\koblitz\Simulationsbeispiele_WS14\get1\ersatz_2.asc
R1a 1 4 500
R2 1 2 1k
R3 2 0 2k
R4 2 3 1k
I1 3 1 4m
R1b 4 0 500
V1 3 0 5
.op
.backanno
.end
