* Z:\home\koblitz\Simulationsbeispiele_SS15\Elektronik_lab\mittwoch\poti_belastet.asc
R1 N001 mid {(1-x)*Rp+eps}
R2 mid 0 {x*RP+eps}
V1 N001 0 1
RL mid 0 {rlast}
.param x=0.5 Rp=1k eps=1m rlast=300
;op
.dc param x 0 1 10m
.step param rlast list 100 200 300 500 1k 1T
.backanno
.end
