* Z:\media\data\CODES\LTSpice_projects\F-108\RC_pulseshape.asc
V1 N001 0 PULSE(0 5 0 2n 2n 1m 20m) AC ac 1
R1 N002 N001 1k
L1 N003 N002 10µ
C1 N003 0 100n
E1 lap 0 N001 0 Laplace=(1/(1+1e-4*s+1e-12*s**2))
M1 N006 N008 0 0 NMOSx
M2 N004 N006 N007 N007 NMOSx
R2 N007 0 10k
R3 N005 N006 1k
V2 N005 0 5
V3 N004 0 12
V4 N008 0 PULSE(0 5 0 1n 1n 1m 3m)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.mos
.tran 10m
.model nmosx nmos(Kp=1m VT0=2.5)
.backanno
.end
