* Z:\media\data\CODES\LTSpice_projects\KTY19_tempSensor_ksq\KTY19_tempSensor_ksq.asc
R1 N002 N003 {RT}
R2 N003 0 3k
V1 N002 0 4.096
R3 N001 0 {RT}
I1 0 N001 100µ
.param RT 2000
.step param RT LIST 2000 2418.21 2884.85 3399.91 3963.4
.tran 1m
.backanno
.end
